US06037488
5-Bromo-2-methoxyacetophenone (Compound G)
To a slurry of 8.55 g (64.2 mmol) of aluminum chloride in 75 mL of dichloromethane cooled to 0° C. (under a blanket of argon) was added dropwise a solution of 10.0 g (53.5 mmol) of 4-bromoanisole and 4.6 mL (64.2 mmol) of acetyl chloride in 25 mL of dichloromethane. After the addition was complete, the clear yellow solution was stirred at 0° C. for 15 minutes, poured into 200 mL of 10% HCl (aq.) solution, cooled to 0° C. in an ice bath and then extracted with dichloromethane (3×200-mL portions). The organic phases were combined and then washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to give a yellow semi-solid. Purification by flash chromatography (silica, 10% ethyl acetate in hexane) gave the title compound as a white solid.

reactant | aluminum chloride | 64.2 mmol, 8.55 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-bromoanisole | 53.5 mmol, 10.0 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | acetyl chloride | 64.2 mmol, 4.6 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 200 mL | Cl | ClH
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-Bromo-2-methoxyacetophenone | CC(=O)C1=C(C=CC(=C1)Br)OC | C9H9BrO2
